US09428508B2
2-(5-Chloro-2-nitrophenyl)-1,3-dioxolane (13.4 g, 58.4 mmol) was dissolved in morpholine (150 mL). The mixture was then heated to reflux for 16 hours. Cooling to room temperature, dichloromethane was added. The organic phase was washed with water, dried over anhydrous sodium sulfate, evaporated and purified by silica gel chromatography to afford the product 4-(3-(1,3-dioxolan-2-yl)-4-nitrophenyl)morpholine (15.9 g, yield 97.1%).

reactant | 2-(5-Chloro-2-nitrophenyl)-1,3-dioxolane | 58.4 mmol, 13.4 g | ClC=1C=CC(=C(C1)C1OCCO1)[N+](=O)[O-] | C9H8ClNO4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | morpholine | 150 mL | N1CCOCC1 | C4H9NO
product | 4-(3-(1,3-dioxolan-2-yl)-4-nitrophenyl)morpholine | 15.9 g, yield 97.1% | O1C(OCC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C13H16N2O5
